US04459403
To 0.66 g (0.005 mole) of 6H-1,2,4-oxadiazin-3(2H)-one-5(4H)-thione dissolved in 10 ml of freshly distilled dry dioxane is added 1.33 g (0.0051 mole) of oleylamine. The reaction mixture is stirred for 17 hours at room temperature and the crystalline material filtered, washed with additional dry dioxane and chloroform, and dried to give 0.3 g (16 percent) of 5-(4-octadecenylamino)-6H-1,2,4-oxadiazin-3(2H)-one.

reactant | 6H-1,2,4-oxadiazin-3(2H)-one-5(4H)-thione | 0.005 mole, 0.66 g | O1NC(NC(C1)=S)=O | C3H4N2O2S
reactant | oleylamine | 0.0051 mole, 1.33 g | C(CCCCCCC\C=C/CCCCCCCC)N | C18H37N
product | 5-(4-octadecenylamino)-6H-1,2,4-oxadiazin-3(2H)-one | 0.3 g, 16 percent | C(CCC=CCCCCCCCCCCCCC)NC1=NC(NOC1)=O | C21H39N3O2
